US07572809B2
Similar procedure as described in example 10 was used, starting from 2-(2-ethoxy-ethoxy)-ethanol and (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give {-[2-(2-ethoxy-ethoxy)-ethoxy]-isoquinolin-3-yl}-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 357(MH+).

reactant | 2-(2-ethoxy-ethoxy)-ethanol | C(C)OCCOCCO | C6H14O3
reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
product | {-[2-(2-ethoxy-ethoxy)-ethoxy]-isoquinolin-3-yl}-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)OCCOCCOC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C19H24N4O3
